### PR TITLE
fill sorries in 1) Prod and in 2)  measurable_of_measurable_coe' adding IsPiSystem t

### PR DESCRIPTION
**Pull request by or4nge19**
hope it is not impolite to work on this; apologies but I'd like to use GibbsMeasure in a few applications in PhysLean :)

### CODE REVIEW

File: GibbsMeasure/Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean [hunk 1]
```diff
@@ -14,33 +14,197 @@ open scoped Classical
...
-as `f` on all `m`-measurable sets, then it is a.e. equal to `μ[f|hm]`. -/
+section
+variable {E : Type*}
+  [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
+
+omit [NormedSpace ℝ E] [CompleteSpace E] in
+/-- If `μ s < ∞`, then the indicator of a constant function on `s` is integrable. -/
+lemma integrable_indicator_const
+    (hs : MeasurableSet s) (hμs : μ s < ∞) (c : E) :
+    Integrable (s.indicator (fun _ : α => c)) μ := by
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean]: Do you know about `integrable_indicator_iff`? This shows that your lemma should be stated in terms of `IntegrableOn`, and it is then very easy to see it as a consequence of `IntegrableOn.indicator` + `integrableOn_const`, so I don't think it's  worth having as a separate lemma?

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/GiryMonad.lean [hunk 2]
```diff
@@ -5,20 +5,21 @@ open scoped ENNReal
...
-    rw [← iUnion_disjointed]
-    simp_rw [measure_iUnion (disjoint_disjointed _) (.disjointed hg_meas)]
-    refine .ennreal_tsum fun i ↦ ?_
-    sorry
+/--
+This theorem requires `IsPiSystem t`. Without it, the induction strategy fails because
+the predicate `P(s) := Measurable (fun b => μ b s)` is not closed under intersections,
+which are needed for the disjointification step in the countable union case.
+-/
+theorem measurable_of_measurable_coe'
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/GiryMonad.lean]: This should definitely have `isPiSystem` somewhere in the name!

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean [hunk 3]
```diff
@@ -1,17 +1,231 @@
...
-variable (X Y : Type*) [MeasurableSpace X] [MeasurableSpace Y]
+variable {X Y : Type*} [MeasurableSpace X] [MeasurableSpace Y]
 
-lemma eq_prod_of_dirac_right (ν : Measure X) (y : Y) (μ : Measure (X × Y))
-    (marg_X : Measure.map Prod.fst μ = ν) (marg_Y : Measure.map Prod.snd μ = Measure.dirac y) :
+open Set
+
+omit [MeasurableSpace X] [MeasurableSpace Y] in
+private lemma preimage_fst_prod {X Y} (s : Set X) :
+  (Prod.fst : X × Y → X) ⁻¹' s = s ×ˢ (univ : Set Y) := by
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean]: This is `Set.prod_univ`. [Found using Loogle](https://loogle.lean-lang.org/?q=Set.preimage%2C+_+%C3%97%CB%A2+Set.univ).

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean [hunk 4]
```diff
@@ -1,17 +1,231 @@
...
+  ext p; rcases p with ⟨x, y⟩
+  simp [Set.mem_preimage, Set.mem_prod]
+
+omit [MeasurableSpace X] [MeasurableSpace Y] in
+private lemma preimage_snd_prod {X Y} (t : Set Y) :
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean]: Similarly this is `Set.univ_prod`

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean [hunk 5]
```diff
@@ -1,17 +1,231 @@
...
+section
+
+variable {X Y : Type*} [MeasurableSpace X] [MeasurableSpace Y]
+open Set
+
+-- Total mass from a Dirac marginal
+lemma measure_univ_of_marg_snd_dirac
+    (μ : Measure (X × Y)) (y : Y)
+    (marg_Y : Measure.map Prod.snd μ = Measure.dirac y) :
+    μ univ = 1 := by
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean:46]: Is this really a theorem about product and Dirac measures? It seems to me like you can state everything in the generality of `HasLaw`

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! In the future, it's always good to discuss your plans on Zulip first, but here you got lucky and nobody was working on that. I personally find the possibility of GibbsMeasure being used in PhysLean very exciting!

Here are a few initial comments. Your PR is coming at a very busy time for me, so I will likely not be able to comment further before another month. However, more or less all of your code could go straight into mathlib, so I would encourage you to PR it there, where there will be reviewers available for you. No need to close this PR, at least for now.

**Comment by or4nge19** [comment]
Thank you very much for your review. I'm going to have another take on them soon and will try to PR them to mathlib. Next time will use the GibbsMeasure zulip channel :)

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean [hunk 6]
```diff
@@ -1,17 +1,231 @@
...
+
+lemma eq_prod_of_dirac_right
+    (ν : Measure X) (y : Y) (μ : Measure (X × Y))
+    (marg_X : Measure.map Prod.fst μ = ν)
+    (marg_Y : Measure.map Prod.snd μ = Measure.dirac y) :
     μ = ν.prod (Measure.dirac y) := by
--- dynkin's pi system lemma
-  sorry
+  simpa [marg_X] using
+    (eq_prod_of_marg_snd_dirac (μ := μ) (y := y) marg_Y)
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean]:
```suggestion
    eq_prod_of_marg_snd_dirac (μ := μ) (y := y) marg_Y
```
and below too

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean [hunk 7]
```diff
@@ -1,17 +1,231 @@
...
+    (marg_X : Measure.map Prod.fst μ = Measure.dirac x) :
+    μ univ = 1 := by
+  have h := congrArg (fun m : Measure X => m univ) marg_X
+  simpa [Measure.map_apply measurable_fst MeasurableSet.univ, preimage_univ] using h
+
+-- New: total mass of the non-Dirac marginal and finiteness
+lemma map_fst_univ_of_marg_snd_dirac
+    (μ : Measure (X × Y)) (y : Y)
+    (marg_Y : Measure.map Prod.snd μ = Measure.dirac y) :
+    (Measure.map Prod.fst μ) univ = 1 := by
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean]:
```suggestion
    μ.map Prod.fst univ = 1 := by
```
and elsewhere

**Review by YaelDillies — COMMENTED** [review]
Let's make the review process kind of like mathlib's.

**Comment by or4nge19** [comment]
oh sorry, I have just seen your comments :), will try to address them now. Thanks

**Comment by or4nge19** [comment]
-awaiting-author

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean [hunk 8]
```diff
@@ -1,17 +1,349 @@
 import Mathlib.MeasureTheory.Measure.Prod
+import Mathlib.Probability.HasLaw
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean:2]: `Mathlib.Probability.HasLaw` imports `Mathlib.MeasureTheory.Measure.Prod`, not the other way around. Therefore all your material that depends on `HasLaw` should go to `GibbsMeasure.Mathlib.Probability.HasLaw` instead of `GibbsMeasure.Mathlib.MeasureTheory.Measure.Prod`

File: GibbsMeasure/Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean [hunk 9]
```diff
@@ -14,33 +14,201 @@ open scoped Classical
...
 lemma toReal_ae_eq_indicator_condExp_iff_forall_meas_inter_eq (hm : m ≤ m0)
-    [SigmaFinite (μ.trim hm)] {g : α → ℝ≥0∞} {s : Set α} :
-    (fun a ↦ (g a).toReal) =ᵐ[μ] μ[s.indicator 1| m] ↔
-      ∀ t, MeasurableSet[m] t → μ (s ∩ t) = ∫⁻ a in t, g a ∂μ := sorry
+  [SigmaFinite (μ.trim hm)] {g : α → ℝ≥0∞} {s : Set α}
+  (hs_meas : MeasurableSet s) (hs_finite : μ s ≠ ⊤)
+  (hgm : AEStronglyMeasurable[m] g μ)
+  (hg_fin : ∀ᵐ a ∂ μ, g a ≠ ⊤) :
+  (fun a ↦ (g a).toReal) =ᵐ[μ] μ[s.indicator 1| m] ↔
+    ∀ t, MeasurableSet[m] t → μ (s ∩ t) = ∫⁻ a in t, g a ∂μ := by
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean:135]: Statement is indented by four spaces
```suggestion
    [SigmaFinite (μ.trim hm)] {g : α → ℝ≥0∞} {s : Set α}
    (hs_meas : MeasurableSet s) (hs_finite : μ s ≠ ⊤)
    (hgm : AEStronglyMeasurable[m] g μ)
    (hg_fin : ∀ᵐ a ∂ μ, g a ≠ ⊤) :
    (fun a ↦ (g a).toReal) =ᵐ[μ] μ[s.indicator 1| m] ↔
      ∀ t, MeasurableSet[m] t → μ (s ∩ t) = ∫⁻ a in t, g a ∂μ := by
```
Same everywhere else

File: GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean [hunk 10]
```diff
@@ -1,17 +1,349 @@
...
+      (measurable_snd.aemeasurable) hpair_ae)
+  have hcomp_snd : (Prod.snd ∘ fun ω => (Xf ω, Yf ω)) = Yf := by
+    funext ω; simp
+  have margY' : μ.map Prod.snd = P.map Yf := by
+    simpa [μ, hcomp_snd] using hmap_snd
+  have hμ :=
+    MeasureTheory.Measure.eq_mapMk_of_marg_fst_dirac (μ := μ) (x := x) (marg_X := margX)
+  simpa [μ, margY', hY.map_eq] using hμ
+end
+section
```
Comment (YaelDillies) [inline GibbsMeasure/Mathlib/MeasureTheory/Measure/Prod.lean:320]:
```suggestion

section
```

**Review by YaelDillies — COMMENTED** [review]
This PR is too big for me to review properly. Do you think you could find constituent parts that each make sense on their own? I expect there could be two to three parts here.
